US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-(4-morpholin-4-yl-3-phenyl-piperidin-1-yl)-methanone
Rac-cis-4-(1-benzyl-3-phenyl-piperidin-4-yl)-morpholine (1.3 g, 3.86 mmol) was dissolved in methanol (50 mL) and concentrated hydrochloric acid (0.2 mL) and palladium on charcoal (10%, 200 mg) were added. After stirring in a hydrogen atmosphere (1 bar) at room temperature overnight the mixture was filtered and the solvent was evaporated. The crude intermediate was dissolved in dichloromethane (20 mL) and triethylamine (2.69 mL, 19.3 mmol) and 3,5-bistrifluoromethyl-benzoyl chloride (0.91 mL, 5.02 mmol) were added. The reaction mixture was stirred at room temperature overnight and than diluted with 20 mL water. The organic phase was separated and the aqueous layer was extracted twice with 20 mL dichloromethane. Organic phases were pooled, dried with magnesium sulfate and evaporated. Flash chromatography on silica gel with hexane/ethyl acetate/triethyl amine 80:20:1 gave the desired product (1.57 g, 83%) as off-white crystalls, MS: m/e=487.3 (M+H+).

reactant | Rac-cis-4-(1-benzyl-3-phenyl-piperidin-4-yl)-morpholine | 3.86 mmol, 1.3 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)N1CCOCC1)C1=CC=CC=C1 | C22H28N2O
reactant | hydrochloric acid | 0.2 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | 19.3 mmol, 2.69 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-bistrifluoromethyl-benzoyl chloride | 5.02 mmol, 0.91 mL | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
solvent | water | 20 mL | O | H2O
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-(4-morpholin-4-yl-3-phenyl-piperidin-1-yl)-methanone | 1.57 g, 83% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCOCC1)C1=CC=CC=C1)(F)F | C24H24F6N2O2
